US05736550
To a solution of 3-hydroxymethylpiperidine (5.0 g, 43 mmol) in methyl ethyl ketone (50 ml) were added successively potassium carbonate (60 g, 0.43 mol), sodium iodide (1.30 g, 8.68 mmol), 4-chloromethylpyridine hydrochloride (8.54 g, 52.1 mmol) and the mixture was heated under reflux for 8 hours. The reaction mixture was filtered with Celite and the solvent was distilled off from the filtrate under reduced pressure. The residue was chromatographed using silica gel column and the fraction from methanol-chloroform (1/20) gave 3-hydroxymethyl-1-(4-pyridylmethyl)piperidine (8.29 g). Yield=93%.

reactant | 3-hydroxymethylpiperidine | 43 mmol, 5.0 g | OCC1CNCCC1 | C6H13NO
reactant | potassium carbonate | 0.43 mol, 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 8.68 mmol, 1.30 g | [I-].[Na+]
reactant | 4-chloromethylpyridine hydrochloride | 52.1 mmol, 8.54 g | Cl.ClCC1=CC=NC=C1
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 3-hydroxymethyl-1-(4-pyridylmethyl)piperidine | 8.29 g, Yield=93% | OCC1CN(CCC1)CC1=CC=NC=C1 | C12H18N2O
